US08895565B2
Ethyl 5-(6-methyl-5-{[4-(trifluoromethyl)phenyl]ethynyl}pyrimidin-4-ylaminomethyl)-2-furancarboxylate
A mixture of 4-amino-6-methyl-5-{[4-(trifluoromethyl)phenyl]ethynyl}pyrimidine (2.8 g), ethyl 5-chloromethyl-2-furancarboxylate (1.8 g), sodium hydrogencarbonate (1 g) and N,N-dimethylformamide (120 ml) was heated while stirring at 80° C. for 12 hours. The mixture thus obtained was concentrated under reduced pressure. To the resultant residue, water was added. After extraction was performed with ethyl acetate, an organic phase was dried over anhydrous sodium sulfate and evaporated. The resultant residue was purified by column chromatography to obtain a target substance (0.8 g). The target substance was subjected to e.g., proton nuclear magnetic resonance spectrometry (1H-NMR) and mass spectrometry (MS) and confirmed as the titled compound. Furthermore, MS measurement result is shown.

reactant | 4-amino-6-methyl-5-{[4-(trifluoromethyl)phenyl]ethynyl}pyrimidine | 2.8 g | NC1=NC=NC(=C1C#CC1=CC=C(C=C1)C(F)(F)F)C | C14H10F3N3
reactant | ethyl 5-chloromethyl-2-furancarboxylate | 1.8 g | ClCC1=CC=C(O1)C(=O)OCC | C8H9ClO3
reactant | sodium hydrogencarbonate | 1 g | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | Ethyl 5-(6-methyl-5-{[4-(trifluoromethyl)phenyl]ethynyl}pyrimidin-4-ylaminomethyl)-2-furancarboxylate | CC1=C(C(=NC=N1)NCC1=CC=C(O1)C(=O)OCC)C#CC1=CC=C(C=C1)C(F)(F)F | C22H18F3N3O3
